US08217032B2
Cool a solution of 2-hydroxy-6-methoxy-naphthalene-1-carbaldehyde (18 g, 88.7 mmol, see Wrobel, et. al. J. Med. Chem. 1991, 34, 2504.) in dichloromethane (90 mL) to −78° C. Add pyridine (35.1 g, 443.6 mmol) and 4-dimethylaminopyridine (0.54 g, 4.4 mmol). Add trifluoromethanesulfonic anhydride (27.5 g, 97.6 mmol) and stir for 1 hour. Dilute with 2 M aqueous hydrochloric acid. Separate the organic layer and dry over magnesium sulfate. Filter, add silica gel, and concentrate in vacuo. Purify the residue by column chromatography using an eluent of 2:1 hexanes:dichloromethane. Isolate 9.0 g of trifluoromethanesulfonic acid 1-formyl-6-methoxy-naphthalen-2-yl ester (30%).

reactant | 2-hydroxy-6-methoxy-naphthalene-1-carbaldehyde | 88.7 mmol, 18 g | OC1=C(C2=CC=C(C=C2C=C1)OC)C=O | C12H10O3
reactant | pyridine | 443.6 mmol, 35.1 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 97.6 mmol, 27.5 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 4.4 mmol, 0.54 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | hydrochloric acid | 2 M | Cl | ClH
product | trifluoromethanesulfonic acid 1-formyl-6-methoxy-naphthalen-2-yl ester | 9.0 g, 30% | C(=O)C1=C(C=CC2=CC(=CC=C12)OC)OS(=O)(=O)C(F)(F)F | C13H9F3O5S
